US07863283B2
Isopropyl-[6-methoxy-7-(4-methylsulphanylbutoxy)quinazolin-4-yl]amine
4-(Isopropylamino)-6-methoxyquinazolin-7-ol (380 mg, 1.63 mmol) is dissolved in methylene chloride (10 ml) under an argon atmosphere, treated with triphenylphosphine (641 mg, 2.44 mmol), azodicarboxylic acid dipiperidide (617 mg, 2.44 mmol) and 4-(methylthio)butan-1-ol (235 mg, 1.96 mmol) and stirred at room temperature for 20 hours. The batch is diluted with methylene chloride and water, and the organic phase is separated off and concentrated. The desired product is obtained after chromatography by means of preparative HPLC in 43% yield (258 mg).

reactant | 4-(Isopropylamino)-6-methoxyquinazolin-7-ol | 1.63 mmol, 380 mg | C(C)(C)NC1=NC=NC2=CC(=C(C=C12)OC)O | C12H15N3O2
reactant | triphenylphosphine | 2.44 mmol, 641 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | azodicarboxylic acid dipiperidide | 2.44 mmol, 617 mg | C1CCN(CC1)C(=O)/N=N/C(=O)N2CCCCC2 | C12H20N4O2
reactant | 4-(methylthio)butan-1-ol | 1.96 mmol, 235 mg | CSCCCCO | C5H12OS
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | Isopropyl-[6-methoxy-7-(4-methylsulphanylbutoxy)quinazolin-4-yl]amine | 43% yield | C(C)(C)NC1=NC=NC2=CC(=C(C=C12)OC)OCCCCSC | C17H25N3O2S
